US05614633
A mixture of 6.2 g of 2,2-bisfluoromethyl-6-nitro-4-(2-pyridyl)-2H-1-benzopyran, 11.7 g of stannous chloride and 80 ml of ethanol was refluxed with heating for 3 hours. The solvent was distilled off and sodium hydroxide solution was added to form an alkaline solution. The solution was extracted with methylene chloride and the organic layer was extracted with 2N hydrochloric acid. To the aqueous layer was added 2N sodium hydroxide to form a strongly alkaline solution, which was then extracted with methylene chloride. The organic layer was washed with water and dried and the solvent was distilled off to obtain 4.8 g of 6-amino-2,2-bisfluoromethyl-4-(2-pyridyl)-2H-1-benzopyran. To a mixture of 4.8 g of the above-obtained 6-amino-2,2-bisfluoromethyl-4-(2-pyridyl)-2H-1-benzopyran, 1.0 ml of concentrated sulfuric acid and 80 ml of water was added 1.20 g of sodium nitrite dissolved in 10 ml of water with stirring under ice-cooling. After the mixture was stirred for 20 minutes, 3.31 g of potassium iodide dissolved in 10 ml of water was added. After addition of 100 ml of methylene chloride, the mixture was stirred at room temperature for 2 hours. Water was added thereto and the mixture was extracted with methylene chloride. The organic layer was washed with sodium hydroxide solution and dried. The solvent was distilled off and the resultant residue was purified using silica gel column chromatography (developing solution, MeOH:CH2Cl2 =1:99) to obtain 4.50 g of oily 2,2-bisfluoromethyl-6-iodo-4-(2-pyridyl)-2H-1-benzopyran represented by the following formula.

reactant | 6-amino-2,2-bisfluoromethyl-4-(2-pyridyl)-2H-1-benzopyran | 4.8 g | NC=1C=CC2=C(C(=CC(O2)(CF)CF)C2=NC=CC=C2)C1 | C16H14F2N2O
reactant | sulfuric acid | 1.0 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 1.20 g | N(=O)[O-].[Na+]
reactant | potassium iodide | 3.31 g | [I-].[K+]
solvent | water | 10 ml | O | H2O
solvent | water | 10 ml | O | H2O
solvent | water | 80 ml | O | H2O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 2,2-bisfluoromethyl-6-iodo-4-(2-pyridyl)-2H-1-benzopyran | 4.50 g | FCC1(OC2=C(C(=C1)C1=NC=CC=C1)C=C(C=C2)I)CF | C16H12F2INO
